US08835494B2
To a solution of N-[3-(acetylmethylamino)-2-(tert-butyldimethyl silanyloxy)propyl]-N-methylacetamide (1.12 g, 3.54 mmol) in methanol (23 mL), hydrogen chloride 4M dioxane solution (0.357 mL, 1.426 mmol) was added dropwise at 0° C. and the reaction was stirred at r.t. overnight. Solvent was evaporated and the residue triturated with petroleum ether and decanted. The oil obtained after trituration was dried under vacuum affording N-[3-(acetylmethylamino)-2-hydroxypropyl]-N-methylacetamide (681 mg, 95% yield).

reactant | N-[3-(acetylmethylamino)-2-(tert-butyldimethyl silanyloxy)propyl]-N-methylacetamide | 3.54 mmol, 1.12 g | C(C)(=O)CNCC(CN(C(C)=O)C)O[Si](C)(C)C(C)(C)C | C15H32N2O3Si
reactant | hydrogen chloride | 1.426 mmol, 4M, 0.357 mL | Cl | ClH
solvent | methanol | 23 mL | CO | CH4O
product | N-[3-(acetylmethylamino)-2-hydroxypropyl]-N-methylacetamide | 681 mg, 95% yield | C(C)(=O)CNCC(CN(C(C)=O)C)O | C9H18N2O3
